US08217028B2
To a solution of ethyl N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-β-alaninate (D72) (176 mg) in tetrahydrofuran (10 mL) and methanol (5 mL) stirred at 20° C. was added a solution of sodium hydroxide (36 mg) in water (5 mL) in one charge. The reaction mixture was stirred at 20° C. for 6 hours. The reaction mixture was concentrated to about 5 mL and then H2SO4 (0.1 M) solution was added dropwise until no further white precipitate was formed. The solid was filtered and washed with EtOAc. The solid was collected and then was suspended in methanol (5 mL). The mixture was acidified with HCl (1 M) solution to pH around 1 to form a clear solution. After most of the solvent was evaporated off, the residue was freeze-dried to afford N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-β-alanine (E46) (109 mg) as a hydrochloride salt. δH (DMSO-d6, 400 MHz): 1.38 (6H, d), 2.72 (2H, t), 3.16 (2H, t), 4.41 (2H, s), 4.90-4.93 (1H, m), 7.33 (1H, t), 7.48 (1H, d), 7.76 (1H, d), 8.02 (1H, d), 8.09 (1H, d), 8.23 (1H, dd), 8.40 (1H, d), 8.81 (1H, br), 11.36 (1H, s). MS (ES): C23H23ClN4O4 requires 454; found 366.1 (M—NHC2H4COOH+).

reactant | ethyl N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-β-alaninate | 176 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CNCCC(=O)OCC | C25H27ClN4O4
reactant | sodium hydroxide | 36 mg | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-β-alanine | 109 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CNCCC(=O)O | C23H23ClN4O4
